US03963730
A solution of 5.0 g. of acetonine in a mixed solvent comprising 19 g. of acetone and 9.5 g. of methanol was added with 1.3 g. of ammonium acetate. The mixture was maintained at room temperature for 24 hours in a sealed equipment to effect the reaction. After completion of the reaction, the reaction mixture was purified in the same manner as in Example 1 to obtain triacetonamine in a yield of 91.1%.

reactant | acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | acetone | CC(=O)C | C3H6O
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | methanol | CO | CH4O
product | triacetonamine | yield of 91.1% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
